US08808703B2
Step 2: diethyl 3-(4-(2-aminoethyl)phenoxy)propylphosphonate
To a solution of tert-butyl 4-(3-(diethoxyphosphoryl)propoxy)phenethylcarbamate (1 eq) in DCM (0.14 M) was added 4M HCl in dioxane (50 eq). The resulting mixture was stirred at room temperature for 2 hours. The mixture was concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-15% MeOH/DCM to give the product as a yellowish oil.

reactant | tert-butyl 4-(3-(diethoxyphosphoryl)propoxy)phenethylcarbamate | 1 eq | C(C)OP(=O)(OCC)CCCOC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C20H34NO6P
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 50 eq | O1CCOCC1 | C4H8O2
solvent | DCM | 0.14 M | C(Cl)Cl | CH2Cl2
product | diethyl 3-(4-(2-aminoethyl)phenoxy)propylphosphonate | NCCC1=CC=C(OCCCP(OCC)(OCC)=O)C=C1 | C15H26NO4P
